US09388189B2
(S)-Methyl 3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoate
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.16 mmol) and methyl 3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (64 mg, 0.23 mmol) were dissolved in 10 mL dioxane in a microwave vessel. A solution of sodium carbonate (2 M, 365 μl, 0.73 mmol) was added and the mixture was submitted to three vacuum-argon cycles. 2′-(Dimethylamino)-2-biphenylyl-palladium(II) chloride dinorbornylphosphine complex (5 mg, 0.01 mmol) was added and the mixture was submitted to three more vacuum-argon cycles. The reaction mixture was then heated at 120° C. under microwave conditions for 5 h. Further 2′-(dimethylamino)-2-biphenylyl-palladium(II) chloride dinorbornylphosphine complex (5 mg, 0.01 mmol) and sodium carbonate (2 M, 365 μl, 0.73 mmol) were added and the reaction mixture heated at 120° C. under microwave conditions 2 h more. The reaction mixture was cooled at room temperature and partitioned between ethyl acetate and water. The organic phase was washed with water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified by reverse phase using SP1® Purification System to obtain 35 mg (42% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | methyl 3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.23 mmol, 64 mg | OC=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H19BO5
reactant | sodium carbonate | 0.73 mmol, 2 M, 365 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 0.73 mmol, 2 M, 365 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-Methyl 3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoate | 35 mg, 42% yield | NC1=NC=NC(=C1C=1C=C(C(=O)OC)C=C(C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H25N7O4
